US07585885B2
2-Chloro-6-(1-ethoxyvinyl)-isonicotinic acid methyl ester
Add methyl 2,6-dichloroisonicotinate (2.06 g, 10 mmol), tetrakis(triphenylphosphine)palladium (0) (578 mg, 0.5 mmol), triphenyhlphosphine (263 mg, 1 mmol) and toluene (25 mL) in a previously nitrogen filled sealed vessel. Flush the reactants with nitrogen again. Add tributyl(1-ethoxyvinyl)tin (4.05 mL, 12.0 mmol) under nitrogen and heat the sealed mixture at 100° C. overnight with vigorous stirring. Cool the reaction to room temperature, dilute with diethyl ether and filter through a filtering agent. Wash the organic filtrate with saturated aqueous ammonium chloride, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride respectively. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 5:95 to 10:90 ethyl acetate:hexanes) to give the title compound.

reactant | methyl 2,6-dichloroisonicotinate | 10 mmol, 2.06 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | tributyl(1-ethoxyvinyl)tin | 12.0 mmol, 4.05 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.5 mmol, 578 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Chloro-6-(1-ethoxyvinyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)C(=C)OCC)Cl)=O | C11H12ClNO3
